US08252781B2
Under an argon atmosphere, a solution of benzyl 2-(2-chloroacetyl)-2-(adamantan-2-yl)hydrazinecarboxylate (726 mg, 1.93 mmol) in tetrahydrofuran (20 mL) was added at 0° C. with potassium-t-butoxide (238 mg, 2.12 mmol), and the resultant was stirred at the same temperature for 1 hour. The reaction solution was added with a saturated aqueous solution of ammonium chloride, and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, the obtained residue was purified using silica gel chromatography (hexane:ethyl acetate=3:1), and benzyl 2-(adamantan-2-yl)-3-oxo-1,2-diazetidine-1-carboxylate (463 mg, 70.4%) was obtained as a colorless oil.

reactant | benzyl 2-(2-chloroacetyl)-2-(adamantan-2-yl)hydrazinecarboxylate | 1.93 mmol, 726 mg | ClCC(=O)N(NC(=O)OCC1=CC=CC=C1)C1C2CC3CC(CC1C3)C2 | C20H25ClN2O3
reactant | potassium-t-butoxide | 2.12 mmol, 238 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | benzyl 2-(adamantan-2-yl)-3-oxo-1,2-diazetidine-1-carboxylate | 463 mg, 70.4% | C12C(C3CC(CC(C1)C3)C2)N2N(CC2=O)C(=O)OCC2=CC=CC=C2 | C20H24N2O3
